US07119109B2
a) 1,1,1-Trifluoro-4-iodo-2-butanol
A solution of triphenylphosphine (1.09 g, 4.16 mmol) in dichloromethane (14 mL) was treated with imidazole (0.283 g, 4.16 mmol) and iodine (1.06 g, 4.16 mmol), respectively, to give an orange suspension. A solution of 4,4,4-trifluoro-1,3-butanediol (0.500 g, 3.47 mmol) in dichloromethane (4 mL) was added to the suspension and stirred for 20 minutes. The solid was removed by filtration and the filtrate was concentrated under reduced pressure without heat to yield a black oil. The crude oil was purified by silica gel chromatography, eluting with 100% dichloromethane, to give the product as an oil (0.640 g, 72%).

reactant | triphenylphosphine | 4.16 mmol, 1.09 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 4.16 mmol, 0.283 g | N1C=NC=C1 | C3H4N2
reactant | iodine | 4.16 mmol, 1.06 g | II | I2
reactant | 4,4,4-trifluoro-1,3-butanediol | 3.47 mmol, 0.500 g | FC(C(CCO)O)(F)F | C4H7F3O2
solvent | dichloromethane | 14 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 1,1,1-Trifluoro-4-iodo-2-butanol | 0.640 g, 72% | FC(C(CCI)O)(F)F | C4H6F3IO
